US04125621
Thionaphthene-2-carboxylic acid (327-9)
Thionaphthene was treated in a carboxylation reaction in accordance with the procedure described by D. A. Shirley and M. D. Cameron, in J. Am. Chem. Soc., 72, 2788, 1950 using N-butyllithium in ether, followed by carbonation with dry ice, and hydrolysis to the acid. The product had a melting point of 238°-239° C.

reactant | Thionaphthene | C1=CC=C2C(=C1)C=CS2 | C8H6S
reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | dry ice | C(=O)=O | CO2
solvent | ether | CCOCC | C4H10O
product | Thionaphthene-2-carboxylic acid | C1=CC=C2C(=C1)C=C(S2)C(=O)O | C9H6O2S
